US08536179B2
A clear solution of tert-butyl((5-cyano-6-methoxy-4-methylpyridin-2-yl)methyl)carbamate (0.65 g, 2.344 mmol) in HOAc (5 mL) and Ethanol (20 mL) was treated on an H-Cube apparatus (50 psi, 40° C., 1 mL/min., Raney Nickel cartridge) for 18 hr overnight. LCMS showed that the reaction was complete. The reaction was evaporated to dryness under vacuum. Purified by silica gel chromatography (Analogix, SF25-60 g, 0 to 10% (5% NH4OH/MeOH) in CH2Cl2). The pure fractions were combined and evaporated to dryness under vacuum to give the product tert-butyl((5-(aminomethyl)-6-methoxy-4-methylpyridin-2-yl)methyl)carbamate (0.58 g, 2.061 mmol, 88% yield) as a clear thick oil.

reactant | tert-butyl((5-cyano-6-methoxy-4-methylpyridin-2-yl)methyl)carbamate | 2.344 mmol, 0.65 g | C(C)(C)(C)OC(NCC1=NC(=C(C(=C1)C)C#N)OC)=O | C14H19N3O3
solvent | HOAc | 5 mL | CC(=O)O | C2H4O2
solvent | Ethanol | 20 mL | C(C)O | C2H6O
catalyst | Raney Nickel | [Ni] | Ni
product | tert-butyl((5-(aminomethyl)-6-methoxy-4-methylpyridin-2-yl)methyl)carbamate | 2.061 mmol, 0.58 g, 88% yield | C(C)(C)(C)OC(NCC1=NC(=C(C(=C1)C)CN)OC)=O | C14H23N3O3
